US05656627
Step B. N-Pipecolyl-4-amino-5-benzyloxy-2-oxotetrahydrofuran
N-(N-tert-Butoxycarbonylpipecolyl)-4-amino-5-benzyloxy-2-oxo-tetrahydrofuran (654 mg) was dissolved in 15 ml of 25% trifluoroacetic acid in dichloromethane and stirred at room temperature. The mixture was concentrated to give a gummy residue. The residue was dissolved in dichloromethane and washed with 10% sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated to give 422 mg of the title compound as a beige solid.

reactant | N-(N-tert-Butoxycarbonylpipecolyl)-4-amino-5-benzyloxy-2-oxo-tetrahydrofuran | 654 mg | C(C)(C)(C)OC(=O)N1C(C(=O)NC2CC(OC2OCC2=CC=CC=C2)=O)CCCC1 | C22H30N2O6
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Pipecolyl-4-amino-5-benzyloxy-2-oxotetrahydrofuran | 422 mg | N1C(C(=O)NC2CC(OC2OCC2=CC=CC=C2)=O)CCCC1 | C17H22N2O4
